US04006145
650 g of 3-methyl-6-(phenylthio)-benzoic acid in 7.5 litres of absolute methanol are slowly treated with 300 ml of concentrated sulphuric acid and the mixture is heated for 24 hours under reflux. The mixture is concentrated and the residue poured on to an ice-cold sodium bicarbonate solution. The mass is extracted with ether, washed with water, dried over sodium sulphate and concentrated. There is obtained methyl 3-methyl-6-(phenylthio)-benzoate as a red-brown oil which crystallises on standing.

reactant | 3-methyl-6-(phenylthio)-benzoic acid | 650 g | CC=1C=C(C(=O)O)C(=CC1)SC1=CC=CC=C1 | C14H12O2S
reactant | sulphuric acid | 300 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 7.5 litres | CO | CH4O
product | methyl 3-methyl-6-(phenylthio)-benzoate | CC=1C=C(C(=O)OC)C(=CC1)SC1=CC=CC=C1 | C15H14O2S
